US07329664B2
1. 2-Cyano-3-trifluoromethylpyridine
Dissolve 2-chloro-3-trifluoromethylpyridine (36.2 g, 0.2 moles) in DMF (350 mL) at room temperature. Add water (3.5 mL) and zinc cyanide (14 g, 0.12 moles) to the reaction mixture and degas with nitrogen for 15 minutes. Add catalyst Pd2(dba)3 (5.5 g, 3 mol %) and ligand DPPF (6.5 g, 6 mol %) to the mixture and then heat at 120° C. with stirring for 1 hour. Cool the reaction mixture in an ice bath and then add saturated ammonium chloride (200 mL), 28% ammonium hydroxide (50 mL) and water (50 mL). Stir the resulting reaction mixture in the ice bath for 1 hour and then dilute it EtOAc (300 mL). Separate the organic layer, extract the aqueous layer with EtOAc (3×300 mL), wash the combined organic layers with brine (2×200 mL) and dry (MgSO4). Filter the dried extract and concentrate under vacuum to afford crude product as dark brown oil. Purify the crude product by vacuum distillation to afford pure product as colorless oil.

reactant | 2-chloro-3-trifluoromethylpyridine | 0.2 moles, 36.2 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | water | 3.5 mL | O | H2O
reactant | ammonium chloride | 200 mL | [Cl-].[NH4+]
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
reactant | water | 50 mL | O | H2O
reactant | DMF | 350 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 0.12 moles, 14 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2(dba)3 | 5.5 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | DPPF | 6.5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | 2-Cyano-3-trifluoromethylpyridine | C(#N)C1=NC=CC=C1C(F)(F)F | C7H3F3N2
